US07576241B2
78.1) 2-[4-(2,5-dimethyl-1H-pyrrol-1-yl)phenyl]acetonitrile
20 g (0.15 mol) of p-aminobenzyl cyanide, 19 ml (0.17 mol) of 2,5-dicetohexane and 2.88 g (0.015 mol) of hydrated p-toluene sulphonic acid are dissolved in a 500 ml flask. This mixture is heated to reflux, the water formed is trapped using a Dean Stark apparatus. At the end of the reaction, the solvent is evaporated off under vacuum and the residue is taken up in 300 ml of AcOEt. The organic solution is washed successively with twice 200 ml of water, 200 ml of a saturated solution of Na2CO3, 200 ml of water, 200 ml of a saturated solution of KHSO4 and finally 200 ml of water and 200 ml of brine. After drying over sodium sulphate, filtration and concentration under vacuum, the residue is purified rapidly on a silica column. A light beige solid is obtained with a yield of 34%. Melting point: 112-113° C.

reactant | p-aminobenzyl cyanide | 0.15 mol, 20 g | NC1=CC=C(CC#N)C=C1 | C8H8N2
solvent | water | O | H2O
product | 2-[4-(2,5-dimethyl-1H-pyrrol-1-yl)phenyl]acetonitrile | yield of 34% | CC=1N(C(=CC1)C)C1=CC=C(C=C1)CC#N | C14H14N2
